US07488740B2
5. 2-Amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid methyl ester
Hydrogenate, at 50 psi, a mixture of 10% Pd-C (150 mg) and 2-nitro-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid methyl ester (2 g) in 95% EtOH (100 mL). Filter through a celite pad and concentrate the filtrate to give the title compound.

reactant | 2-nitro-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid methyl ester | 2 g | COC(C1=C(C=C(C=C1)C1=NC=CC=C1C(F)(F)F)[N+](=O)[O-])=O | C14H9F3N2O4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd-C | 150 mg | [Pd] | Pd
product | 2-Amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C1=NC=CC=C1C(F)(F)F)N)=O | C14H11F3N2O2
